* SFQ pulse test

* The new GPULSE function generates gaussian pulses.  If the amplitude
* is specified as 0, the actual amplitude will be computed to generate
* a single flux quantum (SFQ) pulse.  As a voltage source applied to
* an inductor, this will induce a quantum of flux, phi0 = 2.06783fWb =
* h/(2*e), in the inductor.  For superconductors, the flux that
* threads a superconducting loop is constrained to multiples of this
* value, as a consequence of the periodic boundary condition that the
* superconducting wave function must observe.
*
* SFQ Josephson digital logic makes use of the fact that if a shunted
* Josephson junction has its threshold current exceeded, it will emit
* a pulse, which is an SFQ pulse due to the physics of the Josephson
* junction device.
*
* The circuit below consists of an SFQ pulse generator that produces
* two SFQ pulses, into an inductor in series with a resistively
* shunted Josephson junction.  On the second SFQ pulse, the junction
* critical current is exceeded, and it itself pulses.  allowing the
* second SFQ pulse to "escape" from the inductor.  Note that the
* inductor current before and after the second pulse is the same,
* showing that the GPULSE source and Josephson junction model agree on
* what constitutes an SFQ pulse.
*
* Warning:  This file probably requires WRspice-4.3.3 or later.
* Warning:  This uses WRspice extensions, file is not portable.

* Below,
* Level=1 selects the internal JJ model.
* Level=2 selects the example Verilog-A JJ model, if loaded (with
* the devload command).
*
.model jj3 jj(level=1)

.control
run
plot .
edit
.endc

.tran .1p 100p uic
.plot tran v(1) v(2) i(l1) ysep

v1 1 0 gpulse(0 0 20p 2p 0 40p)
l1 1 2 10p
b1 2 0 100 jj3 ics=0.2mA
r2 2 0 2

